US05037828
1-(2-hydroxyphenyl)-4-[3-(naphth-1-yloxy)-2-hydroxypropyl]-piperazine
4.56 g. (0.025 mole) 1-(2-hydroxyphenyl)-piperazine and 5.6 g. (0.028 mole) 2,3-epoxypropyl naphthyl ether are dissolved in 50 ml. isopropanol and the solution obtained is heated under reflux for 5 hours, while stirring. Thereafter, the reaction mixture is diluted with a further 50 ml. isopropanol and acidified isopropanolic hydrochloric acid. A voluminous product precipitates out which is filtered off with suction, washed several times with isopropanol and recrystallised from methanol. Yield 8.8 g. (77% of theory); m.p. 249°-250° C.

reactant | 1-(2-hydroxyphenyl)-piperazine | 0.025 mole | OC1=C(C=CC=C1)N1CCNCC1 | C10H14N2O
reactant | 2,3-epoxypropyl naphthyl ether | 0.028 mole | C1(=CC=CC2=CC=CC=C12)OCC1CO1 | C13H12O2
reactant | hydrochloric acid | Cl | ClH
solvent | isopropanol | C(C)(C)O | C3H8O
product | 1-(2-hydroxyphenyl)-4-[3-(naphth-1-yloxy)-2-hydroxypropyl]-piperazine | OC1=C(C=CC=C1)N1CCN(CC1)CC(COC1=CC=CC2=CC=CC=C12)O | C23H26N2O3
